* AD103 Lab 03 - the transfer characteristic: I_D vs V_GS
*
* Two sweeps of the same device:
*   V_DS = 0.05 V  -> the channel is a resistor. This is the sweep you extract
*                     a threshold voltage from, because I_D is nearly a straight
*                     line in V_GS once the channel exists.
*   V_DS = 1.8 V   -> saturation. This is the sweep an amplifier lives on, and
*                     the one whose slope is g_m.
*
* Device: W = 5 um, L = 1 um, same transistor as id_vds.spice.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5

Vgs g 0 0
Vds d 0 0

.control
alter Vds = 0.05
dc Vgs 0 1.8 0.005

alter Vds = 1.8
dc Vgs 0 1.8 0.005

setplot dc1
let id_lin = -dc1.i(vds)
let id_sat = -dc2.i(vds)

wrdata ../results/id_vgs.txt id_lin id_sat
.endc
.end
